US20010012844A1
4-Amino-5-(4-benzyloxyphenoxy)quinazoline (1.5 g, 4.4 mmol) was hydrogenated under 5 atm of H2 in the presence of 0.5 g of 10% Pd/C in 80 ml of N,N-dimethylacetamide at 50-60° C. After 4 hours the reaction mixture was filtered through a glass filter of silica gel, concentrated, dissolved in 80 ml of ethanol/water 4:1 (v/v) and crystallized at 40° C. The precipitate was collected by filtration, washed with ethanol and dried at 50° C. in vacuo to give 4-amino-5-(4-hydroxyphenoxy)quinazoline (0.3 g, 27.3%, m.p. 300-302° C. (dec)).

reactant | 4-Amino-5-(4-benzyloxyphenoxy)quinazoline | 4.4 mmol, 1.5 g | NC1=NC=NC2=CC=CC(=C12)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H17N3O2
solvent | N,N-dimethylacetamide | 80 ml | CN(C(C)=O)C | C4H9NO
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4-amino-5-(4-hydroxyphenoxy)quinazoline | 0.3 g, 27.3% | NC1=NC=NC2=CC=CC(=C12)OC1=CC=C(C=C1)O | C14H11N3O2
